* source LAB08_PSPICE
.EXTERNAL INPUT Vout
.EXTERNAL INPUT Vout2
V_V1         N14404 N14392 5Vdc
R_Rf         N14416 N14404  10k TC=0,0 
R_RL         VOUT N14404  1k TC=0,0 
X_U2         N14587 N14497 N14775 0 N14497 uA741
R_R1         N14690 VOUT2  1k TC=0,0 
C_C1         N14678 VOUT2  750u  TC=0,0 
V_RailP         N14775 0 5Vdc
X_Q1         VOUT N16332 N14392 Q2N6059
V_VirtG         N14690 0 200mVdc
V_V3         N14678 0 DC 0Vdc AC 1Vac 
D_D1         N14416 N14392 D1N3940 
V_V5         N14587 0  
+SIN 2.5 3 1k 0 0 0
V_V6         N16332 0  
+SIN 15mV 10mV 1k 0 0 0
