* source PSPICE
R_R1         N00218 N00225  16k TC=0,0 
C_C1         N00362 N00225  1uF  TC=0,0 
R_R2         N00362 N00266  1k TC=0,0 
R_R3         N00266 N00417  60k TC=0,0 
V_V2         N00472 0 5V
R_R4         N00362 N00417  100 TC=0,0 
V_V4         N00218 N00362 DC 0Vdc AC 50mV 
X_U1         N00225 N00266 N00472 N01460 N00417 uA741
V_V5         N00362 0 200mV
V_V6         0 N01460 5V
